US05455260
Serine methyl ester hydrochloride [HOCH2CH(NH2)CO2CH3.HCl] (18.7 g; 0.120 mol) and imidazole (30 g; 0.44 mol) are dissolved in DMF (100 ml) and cooled to 0° C. t-Butyldimethylsilyl chloride (19.5 g; 0.13 mol) is added and the reaction allowed to stir 15 hours at 25° C. The reaction is then diluted with ether (2 L), washed with water (4×500 ml), dried (MgSO4) and concentrated to yield t-butyldimethylsilyloxyserine methyl ester as an oil which is used directly in Step B.

reactant | Serine methyl ester hydrochloride | 0.120 mol, 18.7 g | Cl.COC([C@@H](N)CO)=O
reactant | imidazole | 0.44 mol, 30 g | N1C=NC=C1 | C3H4N2
reactant | t-Butyldimethylsilyl chloride | 0.13 mol, 19.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ether | 2 L | CCOCC | C4H10O
product | t-butyldimethylsilyloxyserine methyl ester | COC([C@@H](NO[Si](C)(C)C(C)(C)C)CO)=O | C10H23NO4Si
